US08530663B2
H2SO4 (2.5 mL, 48.3 mmol, 1.0 eq.) was added to a solution of 3-bromoisonicotinic acid (9.7 g, 48.3 mmol, 1.0 eq.) in MeOH (150 mL). The resulting solution was stirred for 14 hours while the temperature was maintained at reflux in an oil bath. The mixture was then cooled to room temperature and concentrated under vacuum. The residue was dissolved in EtOAc (200 mL). The pH of the solution was adjusted to 10 with Na2CO3. The resulting solution was extracted with EtOAc (100 mL). The organic layer was washed with water (1×200 mL) and saturated aqueous NaCl (2×100 mL). The mixture was dried over anhydrous Na2SO4 and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with EtOAc/PE (1:20) to yield 3-bromoisonicotinic acid methyl ester (4.4 g) as a colorless liquid.

reactant | H2SO4 | 48.3 mmol, 2.5 mL, 1.0 eq. | OS(=O)(=O)O | H2O4S
reactant | 3-bromoisonicotinic acid | 48.3 mmol, 9.7 g, 1.0 eq. | BrC1=C(C(=O)O)C=CN=C1 | C6H4BrNO2
reactant | MeOH | 150 mL | CO | CH4O
product | 3-bromoisonicotinic acid methyl ester | 4.4 g | COC(C1=C(C=NC=C1)Br)=O | C7H6BrNO2
